US05362743
In a flame-dried, three-necked round-bottomed reaction flask equipped with reflux condenser, magnetic stirring bar and rubber septum, there were placed 3.0 g (0.0093 mole) of 4-chloro-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline (the product of Preparation C) dissolved in 30 mL of dry tetrahydrofuran. Stirring was commenced and to the resulting ethereal solution were then added with 2.0 g (0.0186 mole) of benzylamine (available from the Eastman Kodak Company of Rochester, N.Y.), which was added over a five-minute period at room temperature (ca. 20° C.). The well-stirred reaction mixture was then heated to 60° C. and thereafter kept at that temperature for a period of six hours. Upon completion of this step (as revealed by thin layer chromatography (TLC) analysis), the final reaction mixture was filtered to remove precipitated benzylamine hydrochloride and the filtrate was subsequently evaporated to near dryness while under reduced pressure to afford a solid material as the residue. Trituration of the latter material with diethyl ether then gave 880 mg (22%) of essentially pure 4-benzylamino-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline as the free base compound: mass spectrum, m/e 392; NMR (CDCL3) consistent with product. The latter batch of material was next dissolved in dry benzene and thereafter treated with anhydrous hydrogen chloride gas to ultimately yield 320 mg (8%) of pure 4-benzylamino-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline as the hydrochloride salt (in the form of a monohydrate), m.p. 201°- 202° C. after one recrystallization from methanol-diethyl ether. The pure product was further characterized by means of mass spectrum (MS) analysis, in addition to elemental analysis. Mass spectrum, m/e 392.

reactant | 4-chloro-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline | 0.0093 mole, 3.0 g | ClC1=C(C=NC2=C(C=CC=C12)OC)C(CCC(=O)OCC)=O | C16H16ClNO4
reactant | benzylamine | 0.0186 mole, 2.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-benzylamino-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline | C(C1=CC=CC=C1)NC1=C(C=NC2=C(C=CC=C12)OC)C(CCC(=O)OCC)=O | C23H24N2O4
